US04906621
A mixture of 500 mg of 4-(diethylphosphonomethyl)-quinoline-2-carboxamide and 1 g of 10% palladium on charcoal in 75 ml of methanol is hydrogenated at 3 atmospheres pressure for 24 hours, filtered and evaporated to dryness. Chromatography on silica gel using methanol/methylene chloride (1:10) as eluent yields cis-4-(diethylphosphonomethyl)-1,2,3,4-tetrahydroquinoline-2-carboxamide.

reactant | 4-(diethylphosphonomethyl)-quinoline-2-carboxamide | 500 mg | C(C)OP(=O)(OCC)CC1=CC(=NC2=CC=CC=C12)C(=O)N | C15H19N2O4P
catalyst | palladium on charcoal | 1 g | [Pd] | Pd
solvent | methanol | 75 ml | CO | CH4O
product | cis-4-(diethylphosphonomethyl)-1,2,3,4-tetrahydroquinoline-2-carboxamide | C(C)OP(=O)(OCC)C[C@@H]1C[C@@H](NC2=CC=CC=C12)C(=O)N | C15H23N2O4P
